### PR TITLE
[Merged by Bors] - feat: port Topology.DiscreteQuotient

### PR DESCRIPTION
**Pull request by urkud**
Also sync SHA in `Topology.Connected`. The changes in Mathlib 3 were backported from this branch, see

* [`topology.connected`@`92ca63f0fb391a9ca5f22d2409a6080e786d99f7`..`d101e93197bb5f6ea89bd7ba386b7f7dff1f3903`](https://leanprover-community.github.io/mathlib-port-status/file/topology/connected?range=92ca63f0fb391a9ca5f22d2409a6080e786d99f7..d101e93197bb5f6ea89bd7ba386b7f7dff1f3903)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/DiscreteQuotient.lean [hunk 1]
```diff
@@ -0,0 +1,405 @@
+/-
+Copyright (c) 2021 Adam Topaz. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Calle Sönne, Adam Topaz
+
+! This file was ported from Lean 3 source module topology.discrete_quotient
+! leanprover-community/mathlib commit 0a0ec35061ed9960bf0e7ffb0335f44447b58977
```
Comment (eric-wieser) [inline Mathlib/Topology/DiscreteQuotient.lean:7]: Let's make sure we remember to update this to reflect the backport before merging

Comment (urkud) [reply Mathlib/Topology/DiscreteQuotient.lean:7]: I will update SHA sums in 2 files before making it `awaiting-review`.

File: Mathlib/Topology/DiscreteQuotient.lean [hunk 2]
```diff
@@ -0,0 +1,423 @@
...
+@[simp]
+theorem map_proj (cond : LeComap f A B) (x : X) : map f cond (A.proj x) = B.proj (f x) :=
+  rfl
+#align discrete_quotient.map_proj DiscreteQuotient.map_proj
+
+@[simp]
+theorem map_id : map _ (leComap_id A) = id := by ext ⟨⟩; rfl
+#align discrete_quotient.map_id DiscreteQuotient.map_id
+
+@[simp]
```
Comment (urkud) [inline Mathlib/Topology/DiscreteQuotient.lean:332]:
```suggestion
-- porting note: todo: figure out why `simpNF` says this is a bad `@[simp]` lemma
```

File: Mathlib/Topology/DiscreteQuotient.lean [hunk 3]
```diff
@@ -0,0 +1,423 @@
...
+import Mathlib.Topology.Separation
+import Mathlib.Topology.SubsetProperties
+import Mathlib.Topology.LocallyConstant.Basic
+
+/-!
+
+# Discrete quotients of a topological space.
+
+This file defines the type of discrete quotients of a topological space,
+denoted `discrete_quotient X`. To avoid quantifying over types, we model such
```
Comment (mcdoll) [inline Mathlib/Topology/DiscreteQuotient.lean:20]:
```suggestion
denoted `DiscreteQuotient X`. To avoid quantifying over types, we model such
```
Here and in the rest of the module docstring

File: Mathlib/Topology/DiscreteQuotient.lean [hunk 4]
```diff
@@ -0,0 +1,423 @@
...
+
+@[simp]
+theorem ofLe_comp_proj (h : A ≤ B) : ofLe h ∘ A.proj = B.proj :=
+  funext <| ofLe_proj _
+#align discrete_quotient.of_le_comp_proj DiscreteQuotient.ofLe_comp_proj
+
+end OfLe
+
+/-- When `X` is a locally connected space, there is an `order_bot` instance on
+`discrete_quotient X`. The bottom element is given by `connectedComponentSetoid X`
```
Comment (mcdoll) [inline Mathlib/Topology/DiscreteQuotient.lean:253]:
```suggestion
/-- When `X` is a locally connected space, there is an `OrderBot` instance on
`DiscreteQuotient X`. The bottom element is given by `connectedComponentSetoid X`
```

File: Mathlib/Topology/DiscreteQuotient.lean [hunk 5]
```diff
@@ -0,0 +1,423 @@
...
+
+theorem proj_bot_bijective [DiscreteTopology X] : Bijective (⊥ : DiscreteQuotient X).proj :=
+  ⟨proj_bot_injective, proj_surjective _⟩
+#align discrete_quotient.proj_bot_bijective DiscreteQuotient.proj_bot_bijective
+
+section Map
+
+variable (f : C(X, Y)) (A A' : DiscreteQuotient X) (B B' : DiscreteQuotient Y)
+
+/-- Given `f : C(X, Y)`, `le_comap cont A B` is defined as `A ≤ B.comap f`. Mathematically this
```
Comment (mcdoll) [inline Mathlib/Topology/DiscreteQuotient.lean:286]:
```suggestion
/-- Given `f : C(X, Y)`, `LeComap f A B` is defined as `A ≤ B.comap f`. Mathematically this
```

File: Mathlib/Topology/DiscreteQuotient.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Topology/DiscreteQuotient.lean]: Sorry, I forgot to run `fix-comments`

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
